US04066655
Diethyl {[(6-chloro-4-oxo-4H-1-benzopyran-3-yl)amino]methylene}propanedioate
A mixture of 3-amino-6-chlorochromone (1.95 g, 0.01 mole) and diethyl ethoxymethylenemalonate (3.5 g, 0.016 mole) was heated under nitrogen at 120° for 4 hrs. The reaction mixture was cooled. The product, which precipitated, was filtered off and washed with ethyl acetate. Recrystallization from ethyl acetate gave white crystals (2.51 g, 68%), m.p. 143°-145°.

reactant | 3-amino-6-chlorochromone | 0.01 mole, 1.95 g | NC1=COC2=CC=C(C=C2C1=O)Cl | C9H6ClNO2
reactant | diethyl ethoxymethylenemalonate | 0.016 mole, 3.5 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
product | Diethyl {[(6-chloro-4-oxo-4H-1-benzopyran-3-yl)amino]methylene}propanedioate | 2.51 g, 68% | ClC=1C=CC2=C(C(C(=CO2)NC=C(C(=O)OCC)C(=O)OCC)=O)C1 | C17H16ClNO6
